US07799775B2
In 150 ml of tetrahydrofuran, 12.5 g of N-benzyloxycarbonyl-L-proline and 8.9 g of carbonyldiimidazole were dissolved and stirred for 30 minutes. Then 6.9 g of glycine methyl ester hydrochloride and 5.6 g of triethylamine were added to the solution and stirred for an overnight at room temperature. The solution was concentrated, and ethyl acetate was added, followed by washing with saturated aqueous sodium hydrogencarbonate solution, 10% aqueous citric acid and saturated brine, drying over anhydrous magnesium sulfate and concentration. The residue was dissolved in 100 ml of methanol, to which solution 2.0 g of 10% palladium-on-carbon was added and stirred for an overnight in gaseous hydrogen current. Filtering the catalyst off, the filtrate was concentrated. This residue was dissolved in 100 ml of methanol and following addition of triethylamine, the solution was heated under reflux for 14 hours. After concentration, a suitable amount of 2-propanol was added to the residue and the precipitated crystals were recovered by filtration and dried to provide 6.48 g (84%) of (8aS)-2-benzyloxycarbonylhexahydropyrrolo[1,2-a]pyrazin-1,4-dione. In 40 ml of tetrahydrofuran, 4.0 g of this product was dissolved and the solution was dropped into a suspension of 5.9 g of lithium aluminium hydride in 60 ml of tetrahydrofuran, followed by 14 hours' heating under reflux. The solution was cooled with ice, and excessive lithium aluminium hydride therein was decomposed by addition of saturated aqueous sodium hydrogencarbonate solution. After addition of benzyloxycarbonyl chloride, the solution was stirred for an hour under cooling with ice and for further 2 hours at room temperature, followed by extraction with chloroform, washing with saturated brine, drying over anhydrous magnesium sulfate and concentration. The residue was purified on silica gel column chromatography (chloroform:methanol=25:1) to provide 2.77 g (41%) of (8aS)-2-benzyloxycarbonyloctahydropyrrolo[1,2-a]pyrazine.

reactant | N-benzyloxycarbonyl-L-proline | 12.5 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | carbonyldiimidazole | 8.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | glycine methyl ester hydrochloride | 6.9 g | Cl.COC(CN)=O
reactant | triethylamine | 5.6 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | (8aS)-2-benzyloxycarbonylhexahydropyrrolo[1,2-a]pyrazin-1,4-dione | 6.48 g, 84% | C(C1=CC=CC=C1)OC(=O)N1C([C@H]2N(C(C1)=O)CCC2)=O | C15H16N2O4
